US04557867
7α-Methylestr-4-ene-3,11,17-trione (B)
A mixture of 11α-hydroxy-7α-methylestr-4-ene-3,17-dione (A, obtained from Fermentation) and acetic acid (7.5 ml) is stirred and cooled to about 10° in a cold water bath. The following reagents are added: water (6 drops), manganese sulfate monohydrate (0.1 g) in water (1 ml), chromium trioxide (0.66 g) in water (2 ml), and concentrated sulfuric acid (0.6 ml). The chromium trioxide solution is added over a 15 minute period. After 1/2 hour water (10 ml) is added and the crystals of the product are collected, washed with water and dried to give a solid. The solid is dissolved in hot ethyl acetate/methylene chloride (1/1) and decolorized with a little charcoal and silica gel and then filtered through celite. The appropriate fractions are pooled and concentrated to give crystals, UV (ethyl alcohol) λmax =239 nm (ε=16250); IR (mull) 1740, 1707, 1672 and 1616; MS (m/e)=300, 282, 272, and 258.

reactant | 11α-hydroxy-7α-methylestr-4-ene-3,17-dione | O[C@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)C)=O | C19H26O3
reactant | acetic acid | 7.5 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | charcoal | C | CH4
catalyst | water | 6 drops | O | H2O
solvent | water | 1 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | ethyl acetate methylene chloride | C(C)(=O)OCC.C(Cl)Cl
catalyst | manganese sulfate monohydrate | 0.1 g | O.S(=O)(=O)([O-])[O-].[Mn+2]
catalyst | chromium trioxide | 0.66 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 10 ml | O | H2O
product | 7α-Methylestr-4-ene-3,11,17-trione | C[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC([C@@H]2[C@H]2CCC(C=C2C1)=O)=O)=O | C19H24O3
